US05556864
2-[4-(2-Naphthyl)butyl]phenol
The whole of this 4-(2-naphthyl)-1-(2-benzyloxyphenyl)butane was dissolved in 20 ml of methylene chloride, and 9.5 ml of a 1M solution of boron tribromide in methylene chloride were added, whilst ice-cooling and stirring, to the solution. The resulting mixture was then stirred at the same temperature for 1 hour. At the end of this time, the reaction mixture was diluted with methylene chloride, washed with water, dried over anhydrous sodium sulfate, and concentrated by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 4:1 by volume mixture of hexane and ethyl acetate as the eluent, to give 1.56 g (yield 78%) of the title compound as colorless solid.

reactant | 4-(2-naphthyl)-1-(2-benzyloxyphenyl)butane | C1=C(C=CC2=CC=CC=C12)CCCCC1=C(C=CC=C1)OCC1=CC=CC=C1 | C27H26O
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(2-Naphthyl)butyl]phenol | 1.56 g, yield 78% | C1=C(C=CC2=CC=CC=C12)CCCCC1=C(C=CC=C1)O | C20H20O
